US07354932B2
Preparation of ((Z)-4-Chloro-but-2-enyl)-carbamic acid tert-butyl ester
To a stirred suspension of (Z)-4-chloro-2-butenylamine hydrochloride (1.0 g, 7.0 mmol) in THF (35 mL) and water (0.2 mL) was added N,N-diisopropylethylamine (2.7 mL, 15.4 mmol) followed by di-tert-butyl dicarbonate (1.8 g, 8.4 mmol). The resultant solution was stirred for 3 h, at which time saturated aqueous sodium bicarbonate (20 mL) and diethyl ether (40 mL) were added. The phases were separated and the aqueous layer was extracted with Et2O (3×30 mL). The combined organic extracts were washed once with brine (20 mL), dried (MgSO4), and concentrated in vacuo. Purification of the crude material by flash chromatography (silica gel, 4:1 hexane-EtOAc) afforded 1.3 g (90%) of the title compound as a white solid. 1H NMR (CDCl3) δ 1.44 (s, 9H), 3.82 (t, 2H, J=6 Hz), 4.12 (d, 2H, J=9 Hz), 4.62 (br s, 1H), 5.60-5.70 (m, 1H), 5.7275.77 (m, 1H).

reactant | (Z)-4-chloro-2-butenylamine hydrochloride | 7.0 mmol, 1.0 g | Cl.ClC\C=C/CN
reactant | N,N-diisopropylethylamine | 15.4 mmol, 2.7 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | di-tert-butyl dicarbonate | 8.4 mmol, 1.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium bicarbonate | 20 mL | C([O-])(O)=O.[Na+]
solvent | THF | 35 mL | C1CCOC1 | C4H8O
solvent | water | 0.2 mL | O | H2O
solvent | diethyl ether | 40 mL | C(C)OCC | C4H10O
product | ((Z)-4-Chloro-but-2-enyl)-carbamic acid tert-butyl ester | 1.3 g, 90% | C(C)(C)(C)OC(NC\C=C/CCl)=O | C9H16ClNO2
